US07473698B2
5-Methoxylcarbonyl-6-(3,4-Difluorophenyl)-4-Methyl-2-Oxo-N-{4-Oxo-4-[3-(4-Piperidinyl)Anilino]Butyl}-3,6-Dihydro-1(2H)-Pyrimidinecarboxamide
Into a solution of tert-butyl 4-{3-[(4-{[(5-Methoxylcarbonyl-6-(3,4-difluorophenyl)-4-methyl-2-oxo-3,6-dihydro-1(2H)-pyrimidinyl)carbonyl]amino}butanoyl)amino]phenyl}-1-piperidinecarboxylate (378 mg, 0.579 mmol) in dichloromethane (5.00 mL) at 0° C. was slowly added trifluoroacetic acid (659 mg, 5.79 mmol). The reaction mixture was stirred at room temperature for 10 min and concentrated in vacuo. The residue was dissolved in iso-PrOH/CHCl3 (1:3, 10 mL) and basified to pH 11 with 10% KOH solution, washed with H2O, followed by brine. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (dichloromethane:methanol 5:1) to afford the desired product (93.8 mg, 29.3%): 1H NMR (400 MHz, CDCl3) δ 7.46-7.43 (m, 3H), 7.35-7.29 (m, 2H), 7.12-7.06 (m, 3H), 6.63-6.60 (m, 1H), 6.56-6.52 (m, 2H), 3.26 (s, 3H), 3.22 (s, 3H), 2.72 (dt, 6H, J=2.3, 12.3 Hz), 2.66 (tt, 2H, J=3.6, 11.9 Hz), 2.55 (tt, 1H, J=3.8, 11.9 Hz), 1.88-1.82 (m, 1H), 1.75-1.63 (m, 6H); ESMS m/e: 554.3 (M+H)+.

reactant | tert-butyl 4-{3-[(4-{[(5-Methoxylcarbonyl-6-(3,4-difluorophenyl)-4-methyl-2-oxo-3,6-dihydro-1(2H)-pyrimidinyl)carbonyl]amino}butanoyl)amino]phenyl}-1-piperidinecarboxylate | 0.579 mmol, 378 mg | O(C)C(=O)C1=C(NC(N(C1C1=CC(=C(C=C1)F)F)C(=O)NCCCC(=O)NC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C34H41F2N5O7
reactant | trifluoroacetic acid | 5.79 mmol, 659 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5.00 mL | ClCCl | CH2Cl2
product | 5-Methoxylcarbonyl-6-(3,4-Difluorophenyl)-4-Methyl-2-Oxo-N-{4-Oxo-4-[3-(4-Piperidinyl)Anilino]Butyl}-3,6-Dihydro-1(2H)-Pyrimidinecarboxamide | 93.8 mg, 29.3% | O(C)C(=O)C1=C(NC(N(C1C1=CC(=C(C=C1)F)F)C(=O)NCCCC(NC1=CC(=CC=C1)C1CCNCC1)=O)=O)C | C29H33F2N5O5
